US06150352
Step 2B N-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-2-pyridin-2-yl-acetamide
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(2-pyridin-2-yl-acetylamino)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (55 mg in 4.0 mL methylene chloride) was added 2.0 mL trifluoroacetic acid and the mixture stirred at room temperature. After 20 minutes, the mixture was concentrated in vacuo, resolvated in 10% ammonium hydroxide in methanol and concentrated once again. Purification by flash chromatography on silica gel (methylene chloride:10% ammonium hydroxide in methanol, 95:5; then 90:10) gave the title compound, 40 mg.

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(2-pyridin-2-yl-acetylamino)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 4.0 mL, 55 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(CC1=NC=CC=C1)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C36H41ClN4O5
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-4-(2-piperidin-2-yl-ethoxy)-1,2-dihydroquinolin-6-yl]-2-pyridin-2-yl-acetamide | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCCC1NCCCC1)NC(CC1=NC=CC=C1)=O | C31H33ClN4O3
